US07417047B2
Step b) Preparation of 2-Amino-5-[3-(2-fluoropyridin-3-yl)phenyl]-3-methyl-5-(5-propionyl-1-propyl-1H-pyrrol-3-yl)-3,5-dihydro-imidazol-4-one
Using essentially the same procedure described in Example 43, step e, and employing 2-fluoro-pyridin-3-yl boronic acid and 2-amino-5-(3-bromophenyl)-3-methyl-5-(5-propionyl-1-propyl-1H-pyrrol-3-yl)-3,5-dihydro-imidazol-4-one as reactants, the title product was obtained as a white solid, mp 118° C., 1H NMR (400 MHZ, DMSO-d6) δ 0.73 (t, 3H), 0.96 (t, 3H), 1.54 (m, 2H), 2.67 (m, 2H), 2.92 (s, 3H), 4.13 (m, 2H), 6.60 (bs, 2H), 6.92 (s, 1H), 7.01 (s, 1H), 7.41 (m, 3H), 7.53 (m, 1H), 7.67 (m, 1H), 7.97 (m, 1H), 8.19, (m, 1H), m/e (M−H)− 446.2.

reactant | 2-fluoro-pyridin-3-yl boronic acid | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | 2-amino-5-(3-bromophenyl)-3-methyl-5-(5-propionyl-1-propyl-1H-pyrrol-3-yl)-3,5-dihydro-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CN(C(=C1)C(CC)=O)CCC)C1=CC(=CC=C1)Br | C20H23BrN4O2
product | 2-Amino-5-[3-(2-fluoropyridin-3-yl)phenyl]-3-methyl-5-(5-propionyl-1-propyl-1H-pyrrol-3-yl)-3,5-dihydro-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CN(C(=C1)C(CC)=O)CCC)C1=CC(=CC=C1)C=1C(=NC=CC1)F | C25H26FN5O2
